US07915261B2
A 4 M hydrogen chloride/dioxane solution (1.8 ml) was added to a THF (10 ml) solution containing 5-[(tert-butoxycarbonyl)amino]pyridin-3-yl 4-{4-[(3-fluorobenzyl)oxy]phenoxy}piperidine-1-carboxylate (174 mg), followed by stirring at 60° C. for 4 hours. The solvent was evaporated under reduced pressure to obtain 5-aminopiperidin-3-yl 4-{4-[(3-fluorobenzyl)oxy]phenoxy}pyridine-1-carboxylate hydrochloride (74 mg).

reactant | hydrogen chloride dioxane | 4 M, 1.8 ml | Cl.O1CCOCC1
reactant | 5-[(tert-butoxycarbonyl)amino]pyridin-3-yl 4-{4-[(3-fluorobenzyl)oxy]phenoxy}piperidine-1-carboxylate | 174 mg | FC=1C=C(COC2=CC=C(OC3CCN(CC3)C(=O)OC=3C=NC=C(C3)NC(=O)OC(C)(C)C)C=C2)C=CC1 | C29H32FN3O6
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 5-aminopiperidin-3-yl 4-{4-[(3-fluorobenzyl)oxy]phenoxy}pyridine-1-carboxylate hydrochloride | 74 mg | Cl.FC=1C=C(COC2=CC=C(OC3=CCN(C=C3)C(=O)OC3CNCC(C3)N)C=C2)C=CC1 | InChI=1S/C24H26FN3O4.ClH/c25-18-3-1-2-17(12-18)16-30-20-4-6-21(7-5-20)31-22-8-10-28(11-9-22)24(29)32-23-13-19(26)14-27-15-23;/h1-10,12,19,23,27H,11,13-16,26H2;1H
